US07247621B2
1-O-Acetyl-2,3-di-O-benzoyl-5-deoxy-5-(diethoxyphosphinyl)-D-ribofuranose:
2,3-Di-O-benzoyl-5-bromo-5-deoxyribofuranosyl acetate (68.0 g, 0.143 mol) was dissolved in triethyl phosphite (205 mL) and the solution was heated under reflux for 30 h. The volatiles were removed under reduced pressure and the resulting oil was dissolved in ether (780 mL). The organic solution was washed with brine (2×100 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (EtOAc:Hexanes=80:20) yielded 59.4 g of the target compound (78%).

reactant | 2,3-Di-O-benzoyl-5-bromo-5-deoxyribofuranosyl acetate | 0.143 mol, 68.0 g | C(C)(=O)OC1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)CBr | C21H19BrO7
reactant | triethyl phosphite | 205 mL | P(OCC)(OCC)OCC | C6H15O3P
product | 1-O-Acetyl-2,3-di-O-benzoyl-5-deoxy-5-(diethoxyphosphinyl)-D-ribofuranose | 59.4 g, 78% | C(C)(=O)OC1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)CP(=O)(OCC)OCC | C25H29O10P
